US07345056B2
To a stirring mixture of 9-(4-chloro-benzenesulfonyl)-9-aza-bicyclo[3.3.1]nonan-3-one (650 mg, 2.07 mmol) in THF (2 mL) at −78° C. was added lithium hexamethyldisilazide (LiHMDS) in THF (3.1 mL, 1.0 M in THF, 3.1 mmol) dropwise over 15 min. The resulting mixture was allowed to stir at −78° C. for 30 min before the addition of Etl (650 mg, 8.75 mmol). The reaction mixture was stirred at −78° C. for 2.5 h before it was allowed to warm up to room temperature for 15 min. The reaction mixture was quenched with a saturated aqueous NH4Cl solution and EtOAc (25 mL, 1:1, v/v). The layers were separated and the aqueous layer was extracted with EtOAc (2×25 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The crude mixture was purified via silica gel chromatography to give 9-(4-chloro-benzenesulfonyl)-2-ethyl-9-aza-bicyclo[3.3.1]nonan-3-one as a white solid. Retention time (min)=2.295, Method [1], MS(ESI) 342 (M+H).

reactant | 9-(4-chloro-benzenesulfonyl)-9-aza-bicyclo[3.3.1]nonan-3-one | 2.07 mmol, 650 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1C2CC(CC1CCC2)=O | C14H16ClNO3S
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | THF | 3.1 mmol, 1.0 M, 3.1 mL | C1CCOC1 | C4H8O
product | 9-(4-chloro-benzenesulfonyl)-2-ethyl-9-aza-bicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)CC | C16H20ClNO3S
